US07560551B2
To 2-(2-(4-methoxyphenyl)acetyl)-N-methylbenzamide (1.76 g, 6.20 mmol) in EtOH (20 mL) was added hydrazine (3.50 ml, 112 mmol). A water condenser was attached and the mixture was heated to reflux under a nitrogen atmosphere for 5 days. After concentration, the reaction was diluted with EtOAc and extracted with water. The organics were dried over sodium sulfate, filtered and concentrated. The crude was purified by washing the resulting solid with diethyl ether and filtering to yield 4-(4-methoxybenzyl)phthalazin-1(2H)-one as a white solid. MS m/z=267[M+1]+. Calc'd for C16H14N2O2: 266.30.

reactant | 2-(2-(4-methoxyphenyl)acetyl)-N-methylbenzamide | 6.20 mmol, 1.76 g | COC1=CC=C(C=C1)CC(=O)C1=C(C(=O)NC)C=CC=C1 | C17H17NO3
reactant | hydrazine | 112 mmol, 3.50 ml | NN | H4N2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-(4-methoxybenzyl)phthalazin-1(2H)-one | COC1=CC=C(CC2=NNC(C3=CC=CC=C23)=O)C=C1 | C16H14N2O2
